US04003927
By the process of Example VI, Step 2, but substituting for the 2-methoxy-3,4-dichloro-6,7,8,9-tetrahydro- 5H-benzocyclohepten-5-one used therein an equivalent amount of 2-methoxy-3,4-dichloro-6-ethyl-6,7,8,9-tetrahydro- 5H-benzocyclohepten-5-one and conducting the reaction as described in Example VI, Step 2, there is obtained 2-hydroxy- 3,4-dichloro-6-ethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten- 5-one.

reactant | 2-methoxy-3,4-dichloro-6,7,8,9-tetrahydro- 5H-benzocyclohepten-5-one | COC=1C(=C(C2=C(CCCCC2=O)C1)Cl)Cl | C12H12Cl2O2
reactant | 2-methoxy-3,4-dichloro-6-ethyl-6,7,8,9-tetrahydro- 5H-benzocyclohepten-5-one | COC=1C(=C(C2=C(CCCC(C2=O)CC)C1)Cl)Cl | C14H16Cl2O2
product | 2-hydroxy- 3,4-dichloro-6-ethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten- 5-one | OC=1C(=C(C2=C(CCCC(C2=O)CC)C1)Cl)Cl | C13H14Cl2O2
